US07208490B2
Step 4: Preparation of 2-[cis-2-Methyl-6-(trifluoromethyl)morpholin-4-yl]-5-nitrobenzaldehyde
1-Chloroethyl chloroformate (292 μL, 2.68 mmol, Aldrich) is added to a solution of 4-benzyl-cis-2-methyl-6-(trifluoromethyl)morpholine (324 mg, 1.25 mmol) in CH2Cl2 (6 mL) with stirring in an ice bath. The solution is allowed to warm to room temperature and stirred for 16 hours. The solvent is removed by rotary evaporation and the residue is dissolved in methanol (6 mL). This solution is heated to reflux for 4 hours and the methanol is removed by rotary evaporation. The residue is dissolved in CH3CN (5 mL) and treated with N,N-diisopropylethylamine (0.261 mL, 1.5 mmol, Aldrich). K2CO3 (190 mg, 1.37 mmol, Mallinkrodt) and 2-fluoro-5-nitrobenzaldehyde (254 mg, 1.5 mmol, Oakwood) are added and the mixture is heated at 60° C. for 36 hours. N,N,N′-trimethylethylenediamine (2.3 mL) is added and the reaction is stirred an additional 2 hours @ 60° C. The mixture is filtered and the solvent is removed by rotary evaporation. The residue is taken up in EtOAc (100 mL) and washed 2× with 1.0 M HCl, 1× with saturated NaHCO3 and 1× with brine (75 mL each). The organic layer is dried over Na2SO4 and filtered. The solvent is removed by rotary evaporation and the product is purified on a Biotage Flash 25M+ using 20% EtOAc in heptane as eluent. The product containing fractions are pooled and the solvent is removed by rotary evaporation. The product is dried under vacuum at 100° C. yielding a yellow solid.

reactant | 1-Chloroethyl chloroformate | 2.68 mmol, 292 μL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 4-benzyl-cis-2-methyl-6-(trifluoromethyl)morpholine | 1.25 mmol, 324 mg | C(C1=CC=CC=C1)N1C[C@H](O[C@H](C1)C(F)(F)F)C | C13H16F3NO
reactant | N,N-diisopropylethylamine | 1.5 mmol, 0.261 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | K2CO3 | 1.37 mmol, 190 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-5-nitrobenzaldehyde | 1.5 mmol, 254 mg | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | N,N,N′-trimethylethylenediamine | 2.3 mL | CN(CCNC)C | C5H14N2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-[cis-2-Methyl-6-(trifluoromethyl)morpholin-4-yl]-5-nitrobenzaldehyde | C[C@@H]1CN(C[C@@H](O1)C(F)(F)F)C1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C13H13F3N2O4
